US06503903B1
c) 1-(4-Hydroxybenzyl)-2-(methylaminomethyl)indole
To a solution of 1-(4-benzyloxybenzyl)-2-(methylaminomethyl)indole (27.1 g, 75.9 mmole) in methanol (75 mL) at RT in a Parr hydrogenation flask was added 10% Pd/C (0.5 g). The reaction mixture was shaken under 45 psi of H2 for 4 hr. The suspension was filtered through celite®, and the filter pad was washed with methanol. The filtrate was concentrated on the rotavap, and the residue was dried under high vacuum to afford the titled compound (18.0 g, 89%) as an off-white solid: MS (ES) m/e 268 (M+H)+.

reactant | 1-(4-benzyloxybenzyl)-2-(methylaminomethyl)indole | 75.9 mmole, 27.1 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(=CC3=CC=CC=C23)CNC)C=C1 | C24H24N2O
solvent | methanol | 75 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1-(4-Hydroxybenzyl)-2-(methylaminomethyl)indole | 18.0 g, 89% | OC1=CC=C(CN2C(=CC3=CC=CC=C23)CNC)C=C1 | C17H18N2O
